Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ abscess
 
Major Surgical or Invasive Procedure:
___ Incision & Drainage

 
History of Present Illness:
___ otherwise healthy with new onset Right ___ abscess
x 5 days. Lesion started as a "pimple" that became larger, more
swollen, and worsening tenderness over the last few days. There
has been intermittent drainage of pus from the site. The patient
denies any fevers/chills, but did endorse nausea last night. The
patient had a similar abscess on his left lateral thigh last
year, which was treated with I&D and antibiotics.

 
Past Medical History:
none

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
V/S: T 98 P 88 BP 140/88 RR 18 O2 98RA
GEN: NAD, AOx3
CV: RRR
Lungs: CTAB
ABD: soft, NT/ND
Right Buttock: 2x3 cm ___ collection that is erythematous
and tender to palpation, minimal drainage of cloudy liquid from
the site, does not appear to communicate with the rectum on DRE.
EXT: warm, well perfused

 
Pertinent Results:
___ 07:10AM BLOOD WBC-8.0 RBC-4.96 Hgb-15.3 Hct-43.9 MCV-89 
MCH-30.8 MCHC-34.9 RDW-12.7 Plt ___
___ 12:00PM BLOOD WBC-8.5 RBC-4.78 Hgb-15.0 Hct-42.0 MCV-88 
MCH-31.4 MCHC-35.7* RDW-13.0 Plt ___
___ 09:30PM BLOOD Na-138 K-3.8 Cl-100
___ 12:00PM BLOOD Glucose-114* UreaN-15 Creat-1.0 Na-137 
K-7.7* Cl-102 HCO3-27 AnGap-16
 
Brief Hospital Course:
Mr. ___ presented to the ED with worsening tenderness over 
his R ___ abscess. He underwent an incision and drainage 
in the ED for an approximately 2.5x2cm abscess. The wound was 
packed wet to dry. There was initially concern for bleeding and 
he was admitted to the ACS service overnight to monitor his 
hematocrit. It remained stable the next day (42->43.9). He was 
started on Bactrim because a prior abscess in the region had 
grown MRSA sensitive to Bactrim. His dressing was removed and a 
dry gauze was placed over his wound. He was ready for discharge 
to home on ___, with instructions for daily dressing 
changes. 
 
Medications on Admission:
multivitamin
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain. Disp:*40 Tablet(s)* Refills:*0*
2. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 6 days. Disp:*12 Tablet(s)* 
Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
perianal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ___ surgery service for ___ 
abscess.
 
General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.

Please also follow-up with your primary care physician.
 
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Please change dressings over your ___ would once a day 
with dry gauze and tape over the incision. 
 
Followup Instructions:
___